US04038281
22.1 g. of 4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester (0.1 mol.), 17.1 g. of ethyl iodide and 21 g. of potassium carbonate (0.15 mol.) are stirred together in 200 ml. of dimethylformamide at 80° for 12 hours. The inorganic precipitate is filtered off and the filtrate evaporated to dryness. Recrystallization of the residue with ethyl acetate yields 18.2 g. of 7-ethyl-4,7-dihydro-2-methyl-4-oxo-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester, yield (73%); m.p. 170°-172°.

reactant | 4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | 0.1 mol | OC=1C=2C(N=CC1C(=O)OCC)=NN(C2)C | C10H11N3O3
reactant | ethyl iodide | C(C)I | C2H5I
reactant | potassium carbonate | 0.15 mol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-ethyl-4,7-dihydro-2-methyl-4-oxo-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | C(C)N1C=2C(C(C(=C1)C(=O)OCC)=O)=CN(N2)C | C12H15N3O3
